US06660753B2
Using modifications of the method of Shine et al., J. Heterocyclic Chem. (1989) 26:125-128, a solution of picolinic acid (123 mg, 1 mmol) in pyridine (1 mL) was treated with 1,1′-carbonyldiimidazole (162 mg, 1 mmol) and the reaction stirred at ambient temperature until the evolution of carbon dioxide ceased (30 min). The intermediate acylimidazole was then treated with 3-methoxybenzamidoxime (166 mg, 1 mmol) and the reaction heated at reflux for 1 hour. Ice cold water was added to the reaction mixture to precipitate the oxadiazole. The solid was collected by filtration, washed with water and dried to afford 80 mg (32%) of 3-(3-methoxyphenyl)-5-(2-pyridyl)-1,2,4-oxadiazole: mp 90-94° C.; GC/EI-MS gave m/z (rel. int.) 253 (M+, 100), 254 (17), 179 (2), 175 (2), 149 (77), 133 (33), 119 (4), 106 (29), 78 (45), 51 (18).

reactant | picolinic acid | 1 mmol, 123 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | 1,1′-carbonyldiimidazole | 1 mmol, 162 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | carbon dioxide | C(=O)=O | CO2
reactant | 3-methoxybenzamidoxime | 1 mmol, 166 mg | COC=1C=C(C(N)=NO)C=CC1 | C8H10N2O2
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 3-(3-methoxyphenyl)-5-(2-pyridyl)-1,2,4-oxadiazole | 80 mg, 32% | COC=1C=C(C=CC1)C1=NOC(=N1)C1=NC=CC=C1 | C14H11N3O2
